US07495029B2
2-Oxo-2-phenylethyl (2R)-2-Propyloctanoate
(R)-2-propyloctanoic acid (0.05 g, 0.268 mmol) was dissolved in 5 mL, CH2Cl2. Triethylamine (50 μL, 0.359 mmol) and 2-bromoacetophenone (0.06 g, 0.300) were added, and the reaction was stirred at room temperature for 5 hours. Once no SM was seen by TLC, the reaction mixture was concentrated under reduced pressure to remove all triethylamine. The residue was purified by silica-gel chromatography (0-10% EtOAc:hexanes) to give the product (Example 2). Ee of >98.5% was determined by HPLC [Chiralcel OJ-RH 4.6×150 mm; CH3CN/H2O=60/40; flow rate 1 mL min−1; detection, 244 nm; retention time, 10.7 min (S) and 11.9 min (R).] 1H-NMR (CDCl3, 500 MHz) δ 7.91 (d, 2H), 7.61-7.57 (m, 1H), 7.48 (t, 2H), 5.32 (s, 2H), 2.55-2.50 (m, 1H), 1.72-1.68 (m, 2H), 1.52-1.48 (m, 2H), 1.47-1.27 (m, 10H), 0.93 (t, 3H), 0.88 (t, 3H).

reactant | (R)-2-propyloctanoic acid | 0.268 mmol, 0.05 g | C(CC)[C@@H](C(=O)O)CCCCCC | C11H22O2
reactant | Triethylamine | 0.359 mmol, 50 μL | C(C)N(CC)CC | C6H15N
reactant | 2-bromoacetophenone | 0.06 g | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
reactant | CH3CN H2O | CC#N.O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-Oxo-2-phenylethyl (2R)-2-Propyloctanoate | C(CC)[C@@H](C(=O)OCC(C1=CC=CC=C1)=O)CCCCCC | C19H28O3
